US06727264B1
N-(4-{1-[4-(1H-INDOL-1-YL)BUTYL]-4-PIPERIDINYL}PHENYL)BUTANAMIDE:
Prepared by Procedure AH and Scheme P using 1-(4-chlorobutyl)-1H-indole and N-[4-(4-piperidinyl)phenyl]butanamide: ESMS m/e: 418.2 (M+H)+.

reactant | 1-(4-chlorobutyl)-1H-indole | ClCCCCN1C=CC2=CC=CC=C12 | C12H14ClN
reactant | N-[4-(4-piperidinyl)phenyl]butanamide | N1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O | C15H22N2O
product | N-(4-{1-[4-(1H-INDOL-1-YL)BUTYL]-4-PIPERIDINYL}PHENYL)BUTANAMIDE | N1(C=CC2=CC=CC=C12)CCCCN1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O | C27H35N3O
